US06548495B2
4-(4-oxo-7-Pyrrol-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-pyridine-2-carbonitrile
A mixture of (2-amino-4-pyrrol-1-yl-phenyl)-carbamic acid tert-butyl ester (Example J2) (0.14 g) and 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert-butyl ester (Example K3) (0.14 g) in toluene (1.5 mL) was heated to 100° C. for 4 h, a fine precipitate being formed. The mixture was cooled and the precipitae was isolated by filtration. A solution of this solid in CH2Cl2 (2.5 mL) and TFA (2.5 mL) was stirred for 0.5 h at 20° C. and then evaporated in vacuum. The residual oil was dissolved in AcOEt and the solution was washed with saturated Na2CO3 solution and with brine, dried over Na2SO4 and evaporated in vacuum. The solid residue was triturated with CH2Cl2 to give the title compound (0.06 g) as light-yellow crystals.

reactant | (2-amino-4-pyrrol-1-yl-phenyl)-carbamic acid tert-butyl ester | 0.14 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)N1C=CC=C1)N)=O | C15H19N3O2
reactant | 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert-butyl ester | 0.14 g | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
reactant | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-oxo-7-Pyrrol-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-pyridine-2-carbonitrile | 0.06 g | O=C1NC2=C(N=C(C1)C1=CC(=NC=C1)C#N)C=CC(=C2)N2C=CC=C2 | C19H13N5O
